US06555089B1
I. Synthesis of N-Cyclooctylpyrrolidine
A three-neck 3000 ml. flask was charged with 75 gm. (1.05 moles) of pyrrolidine, 51 gm. cyclooctanone (0.4 mole) and 80 ml. anhydrous hexane. To the resulting solution, 80 gm. (0.8 mole) of anhydrous magnesium sulfate was added and the mixture was mechanically stirred and heated at reflux (the reaction was monitored by NMR analysis) for 108 hours. The reaction mixture was filtered through a fritted glass funnel. The filtrate was concentrated at reduced pressure on a rotary evaporator to give 70.5 gm. of a clear (yellow-tinted) oily substance. 1H-NMR and 13C-NMR spectra were acceptable for the desired product, 1-(1-pyrrolino)cyclooctene. Saturation of the 1-(1-pyrrolino)cyclooctene to give N-cyclooctylpyrrolidine was accomplished in 98% yield by catalytic hydrogenation in ethanol at a 55 psi pressure of hydrogen gas in the presence of 10% Pd on activated carbon.

reactant | pyrrolidine | 1.05 moles | N1CCCC1 | C4H9N
reactant | cyclooctanone | 0.4 mole | C1(CCCCCCC1)=O | C8H14O
reactant | magnesium sulfate | 0.8 mole | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | hexane | CCCCCC | C6H14
product | N-Cyclooctylpyrrolidine | C1(CCCCCCC1)N1CCCC1 | C12H23N
